US08975406B2
Step 1: 5-bromo-3-fluoropicolinic acid
5-Bromo-3-fluoropicolinamide (1.44 g, 6.5 mmol) was stirred at 120° C. in conc. HCl (17 mL) for 1.5 h. The mixture was cooled in an ice bath and the pH adjusted to pH 5 with NaOH solution (48%, aq.). The mixture was extracted with 40% MeOH in DCM, dried using a phase separator and concentrated in vacuo to give a brown powder.

reactant | 5-Bromo-3-fluoropicolinamide | 6.5 mmol, 1.44 g | BrC=1C=C(C(=NC1)C(=O)N)F | C6H4BrFN2O
reactant | NaOH | [OH-].[Na+]
solvent | HCl | 17 mL | Cl | ClH
product | 5-bromo-3-fluoropicolinic acid | BrC=1C=C(C(=NC1)C(=O)O)F | C6H3BrFNO2
